US08034812B2
Production of 6-iodoimidazo[1,2-b]pyridazin-2-amine
To barium hydroxide octahydrate (14.5 g, 46.1 mmol) was added water (240 mL), and the mixture was stirred at 80° C. for 15 min. A solution of ethyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate (10.2 g, 30.7 mmol) in N-methylpyrrolidone (80 mL) was added to the mixture, and the mixture was stirred at 120° C. for 8 hr. After cooling the mixture to room temperature, water (480 mL) was added to the mixture, and the mixture was stirred for 1 hr. The mixture was extracted twice with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, diisopropyl ether was added to the residue, and the precipitated crystals were collected by filtration to give the title compound (6.1 g, 76%) as a brown powder.

reactant | barium hydroxide octahydrate | 46.1 mmol, 14.5 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | water | 240 mL | O | H2O
reactant | ethyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate | 30.7 mmol, 10.2 g | IC=1C=CC=2N(N1)C=C(N2)NC(OCC)=O | C9H9IN4O2
reactant | water | 480 mL | O | H2O
solvent | N-methylpyrrolidone | 80 mL | CN1C(CCC1)=O | C5H9NO
product | 6-iodoimidazo[1,2-b]pyridazin-2-amine | 6.1 g, 76% | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
